US09126970B2
12,12-Dimethyl-10-[3,2′;6′,3″]terpyridin-4′-yl-10,12-dihydro-10-azaindeno[2,1-b]fluorene
20 g (38.6 mmol) of 10-(2,6-dibromopyridin-4-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene and 10.4 g of 3-pyridineboronic acid (84.9 mmol) are suspended in 400 ml of ethylene glycol dimethyl ether. 85 ml of a 2 M Na2CO3 solution are added to the reaction mixture. 2.23 g (1.93 mmol) of Pd(PPh3)4 are added to this suspension. The reaction mixture is heated under reflux for 12 h. After cooling, the precipitated solid is filtered off with suction, washed with water and ethanol and dried. The residue is extracted with hot toluene, recrystallised from toluene and finally sublimed in a high vacuum, the purity is 99.9%. Yield: 12 g, 60% of theory.

reactant | 10-(2,6-dibromopyridin-4-yl)-12,12-dimethyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | 38.6 mmol, 20 g | BrC1=NC(=CC(=C1)N1C2=CC=CC=C2C=2C=C3C(=CC12)C(C1=CC=CC=C13)(C)C)Br | C26H18Br2N2
reactant | 3-pyridineboronic acid | 84.9 mmol, 10.4 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 400 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 1.93 mmol, 2.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 12,12-Dimethyl-10-[3,2′;6′,3″]terpyridin-4′-yl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | CC1(C2=CC=CC=C2C=2C1=CC=1N(C3=CC=CC=C3C1C2)C2=CC(=NC(=C2)C=2C=NC=CC2)C=2C=NC=CC2)C | C36H26N4
